US08008298B2
To a solution of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester (108 mg) in 3 ml of DMF was added 60% NaH. After stirring 15 minutes, (2-Chloromethoxy-ethyl)-trimethyl-silane (108 mg) was added and the mixture stirred at rt for 14 h. The mixture was partitioned between water and diethylether. The organic phase was concentrated and purified by flash chromatography (9:1 Hexanes:Ethyl acetate). Obtain 110 mg of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester.

reactant | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 108 mg | C(C)OC(=O)C1=C(NC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)C | C19H21N3O5
reactant | NaH | [H-].[Na+]
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 108 mg | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 110 mg | C(C)OC(=O)C1=C(N(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)C | C25H35N3O6Si
